US06291578B1
Into a 500 ml round bottom flask equipped with a magnetic stirring bar, 40.49 g (331.6 mmol) of 4-hydroxybenzaldehyde were added. The aldehyde was dissolved in 240 ml methanol. To the stirred solution, 22.99 g (348.1 mmol) of 50% aqueous solution of hydroxylamine were added over a 15 min. period. The mixture was stirred for an additional 2 hr, at which time it was judged to be complete by the disappearance of the starting aldehyde as observed by thin layer chromatography (SiO2/CH3OH:CH2CL2 5:95). The solvent was removed in vacu to give the product 4-hydroxybenzaldehyde oxime as a dark tan oil, which was recrystallized from water.

reactant | 4-hydroxybenzaldehyde | 331.6 mmol, 40.49 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | hydroxylamine | NO | H3NO
solvent | methanol | 240 ml | CO | CH4O
product | 4-hydroxybenzaldehyde oxime | OC1=CC=C(C=NO)C=C1 | C7H7NO2
